US08466292B2
1.4 Methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-{[(trifluoro-methyl)sulfonyl]oxy}pyridine-2-carboxylate
To a mixture of 115 g (287 mmol) of methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-hydroxypyridine-2-carboxylate in 1200 mL of DCM are added 121.3 mL (863 mmol) of TEA. The mixture gradually dissolves and is cooled to −20° C. under argon. 54.5 mL (331 mmol) of trifluoromethane-sulfonic anhydride are added dropwise, while maintaining the temperature at −20° C. After 3 hours at −10° C., the reaction medium is taken up in 1 L of DCM and washed with 2×1 L of water, dried over Na2SO4 and then concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a pentane/EtOAc gradient of from 0 to 30% EtOAc. After concentrating under reduced pressure, 138 g of methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-{[(trifluoromethyl)sulfonyl]oxy}pyridine-2-carboxylate are obtained in the form of white crystals.

reactant | methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-hydroxypyridine-2-carboxylate | 287 mmol, 115 g | COC1=CC=C(COC=2C=C(C=CC2Cl)C2=C(C=CC(=N2)C(=O)OC)O)C=C1 | C21H18ClNO5
reactant | trifluoromethane-sulfonic anhydride | 331 mmol, 54.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 1200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | Methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-{[(trifluoro-methyl)sulfonyl]oxy}pyridine-2-carboxylate | COC1=CC=C(COC=2C=C(C=CC2Cl)C2=C(C=CC(=N2)C(=O)OC)OS(=O)(=O)C(F)(F)F)C=C1 | C22H17ClF3NO7S
